US07432258B2
(2R)-2-(4-Bromophenyl)oxirane (49.93 g, 250.8 mmol) was added to pyrrolidine (35 mL, 421.2 mmol) in a CH2Cl2 (150 mL) solution at 0° C. with magnetic stirring. Montmorillonite K10 clay (5.87 g) was added in one portion. The resulting mixture was stirred at room temperature for 16 h. The mixture was then filtered through a pad of Celite and the filtrate was concentrated to give a white solid. The crude material was recrystallized from Et2O to give (1R)-1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethanol as clear crystals (29.43 g, 109 mmol, 43% yield). MS (ES) m/e 272, 270 [M+H]+

reactant | (2R)-2-(4-Bromophenyl)oxirane | 250.8 mmol, 49.93 g | BrC1=CC=C(C=C1)[C@H]1OC1 | C8H7BrO
reactant | pyrrolidine | 421.2 mmol, 35 mL | N1CCCC1 | C4H9N
reactant | Montmorillonite K10 | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (1R)-1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethanol | 109 mmol, 29.43 g, 43% yield | BrC1=CC=C(C=C1)[C@H](CN1CCCC1)O | C12H16BrNO
